US05221676
5-Amino-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-7-[3-(4-pyridinyl)-1-pyrrolidinyl]-3-quinolinecarboxylic acid
Starting from 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (1.10 g, 3.7 mmol) and 4-(3-pyrrolidinyl)pyridine, a procedure analogous to that given in Example 1 provided the title compound (0.75 g, 48%) as a yellow solid, mp 236°-238° C.

reactant | 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 3.7 mmol, 1.10 g | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1CC1)C(=O)O)=O | C13H9F3N2O3
reactant | 4-(3-pyrrolidinyl)pyridine | N1CC(CC1)C1=CC=NC=C1 | C9H12N2
product | 5-Amino-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-7-[3-(4-pyridinyl)-1-pyrrolidinyl]-3-quinolinecarboxylic acid | 0.75 g, 48% | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC(CC1)C1=CC=NC=C1)F)C1CC1)C(=O)O)=O | C22H20F2N4O3
